US07988877B2
2,2,3,3,4,4,5,5-Octafluoropentan-1-ol (78.2 g, 0.337 mol, obtained from Sinochem Corp.), 2,2,3,4,4,4-hexafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate (156.4 g, 0.337 mol), potassium carbonate (46.5 g, 0.337 mol), tri-n-butylamine (0.75 g, 0.004 mol) and 150 mL acetone were combined in a 600 mL Parr pressure reactor. The mix was heated to 75° C. with stirring for 18 hours. The salts were filtered from the product. The product was washed with 2×100 mL portions of water to remove extra salts. A resultant fluorochemical product phase was separated and dried over anhydrous magnesium sulfate. 5-(2,2,3,4,4,4-Hexafluorobutoxy)-1,1,2,2,3,3,4,4-octafluoropentane was then obtained by fractional distillation using a concentric tube column. The main fraction boiled between 176-178° C., and GC/MS analysis was consistent with the assigned structure.

reactant | 2,2,3,3,4,4,5,5-Octafluoropentan-1-ol | 0.337 mol, 78.2 g | FC(CO)(C(C(C(F)F)(F)F)(F)F)F | C5H4F8O
reactant | 2,2,3,4,4,4-hexafluorobutyl 1,1,2,2,3,3,4,4,4-nonafluorobutane-1-sulfonate | 0.337 mol, 156.4 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)OCC(C(C(F)(F)F)F)(F)F)F | C8H3F15O3S
reactant | potassium carbonate | 0.337 mol, 46.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | tri-n-butylamine | 0.004 mol, 0.75 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 5-(2,2,3,4,4,4-Hexafluorobutoxy)-1,1,2,2,3,3,4,4-octafluoropentane | FC(COCC(C(C(C(F)F)(F)F)(F)F)(F)F)(C(C(F)(F)F)F)F | C9H6F14O
